US05500453
An aqueous solution of 5.26 g of lithium butyltriphenylborate in 100 ml of water was added to an aqueous solution of 5.00 g of dimethyl-p-methoxyphenacylsulfonium bromide in 100 ml of water, and the resultant mixture was stirred at room temperature for 30 minutes. Then, the reaction mixture was filtered, and the resultant crystal was washed with water and dried to give 7.64 g of dimethyl-p-methoxyphenacylsulfonium-butyltriphenylborate as a white crystal.

reactant | lithium butyltriphenylborate | 5.26 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | dimethyl-p-methoxyphenacylsulfonium bromide | 5.00 g | [Br-].C[S+](CC(=O)C1=CC=C(C=C1)OC)C
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | dimethyl-p-methoxyphenacylsulfonium butyltriphenylborate | 7.64 g | C[S+](CC(=O)C1=CC=C(C=C1)OC)C.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C11H15O2S/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-13-10-6-4-9(5-7-10)11(12)8-14(2)3/h4-18H,2-3,19H2,1H3;4-7H,8H2,1-3H3/q-1;+1
